US07981903B2
To 4-chloro-2-(methyloxy)-1-nitrobenzene (3.0 g, 16.0 mmol) in dioxane (75 mL) was added 1-(1-methylethyl)piperazine (4.1 g, 32.0 mmol), XANTPHOS (1.4 g, 2.4 mmol), and Cs2CO3 (10.4 g, 32.0 mmol). The mixture was bubbled with N2 for 15 min prior to the addition of Pd2(dba)3 (1.5 g, 1.6 mmol). The reaction was stirred at 100° C. for 5 h. Following cooling to room temperature, the reaction mixture was diluted with ethyl acetate (150 mL) and water (100 mL). The organic layer was dried over sodium sulfate, filtered, taken to a residue under reduced pressure, and purified by silica gel chromatography to afford 1-(1-methylethyl)-4-[3-(methyloxy)-4-nitrophenyl]piperazine (4.0 g, 90% yield). ESIMS (M+H)+=280.

reactant | 4-chloro-2-(methyloxy)-1-nitrobenzene | 16.0 mmol, 3.0 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
reactant | 1-(1-methylethyl)piperazine | 32.0 mmol, 4.1 g | CC(C)N1CCNCC1 | C7H16N2
reactant | XANTPHOS | 2.4 mmol, 1.4 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 32.0 mmol, 10.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
catalyst | Pd2(dba)3 | 1.6 mmol, 1.5 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(1-methylethyl)-4-[3-(methyloxy)-4-nitrophenyl]piperazine | 4.0 g, 90% yield | CC(C)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C14H21N3O3
